US08871738B2
To a 100 mL round bottom flask were added 2,2,6,6-tetramethylpiperidine (2.8 mL, 16.6 mmol), and 50 mL THF. BuLi (9.5 mL, 15.2 mmol, 1.6 M hexane solution) was added via a syringe at 0° C. After stirring at 0° C. for 15 mins, ice bath was replaced with dry ice/ether bath. To another 25 mL round bottom flask was added 1-bromo-2-methyl-4-(trifluoromethyl)benzene (3.3 g, 13.8 mmol) and THF. After cooling with dry ice/acetone bath, this solution was cannular transferred to the first flask rapidly. Upon completion of transferring, DMF (2.1 mL, 27.6 mmol) was added immediately and the resulting reaction mixture was stirred at that temperature for 10 more minutes before it was allowed to warm to −20° C. slowly. The reaction was quenched at −20° C. with addition of 50 mL 1N HCl. This mixture was diluted with 100 mL water and extracted with 100 mL EtOAc/hexane 1:9. The organics were washed with 30 mL NaHCO3 aqueous solution, dried over sodium sulfate, filtered and concentrated. Crude product was purified by chromatography to give 1.8 g 2-bromo-3-methyl-5-(trifluoromethyl)benzaldehyde. 1H NMR (500 MHz, CDCl3) δ10.50 (s, 1H), 8.03 (d, J=1.4 Hz, 1H), 7.75 (d, J=1.5 Hz, 1H), 2.60 (s, 3H).

reactant | 2,2,6,6-tetramethylpiperidine | 16.6 mmol, 2.8 mL | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | BuLi | 15.2 mmol, 1.6 M, 9.5 mL | [Li]CCCC
reactant | 1-bromo-2-methyl-4-(trifluoromethyl)benzene | 13.8 mmol, 3.3 g | BrC1=C(C=C(C=C1)C(F)(F)F)C | C8H6BrF3
reactant | DMF | 27.6 mmol, 2.1 mL | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-bromo-3-methyl-5-(trifluoromethyl)benzaldehyde | 1.8 g | BrC1=C(C=O)C=C(C=C1C)C(F)(F)F | C9H6BrF3O
